US09034866B2
10-Bromo-3-cyclopropyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (62 mg) was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similar to as described in Procedure E to afford 39.2 mg of 3-cyclopropyl-9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 437 (M)+. 1H NMR (400 MHz, DMSO) δ 8.53 (d, J=18.5 Hz, 1H), 7.44 (s, 1H), 6.99 (d, J=10.5 Hz, 1H), 6.92 (s, 1H), 6.51 (s, 1H), 6.34 (s, 1H), 4.64-4.37 (m, 4H), 2.40 (s, 3H), 1.81 (s, 2H), 1.79-1.71 (m, 1H), 1.03-0.93 (m, 2H), 0.86-0.77 (m, 2H).

reactant | 10-Bromo-3-cyclopropyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 62 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3CC3)C1)F | C15H13BrFN3O2
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 3-cyclopropyl-9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 39.2 mg | C1(CC1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#C[C@](C)(C1=NOC(=C1)C)O)C(=O)N | C23H21FN4O4
